US09359340B2
To a solution of (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate (0.75 g, 3.3 mmol) in NMP (10 mL) was added (S)-tert-butyl 3-methylpiperazine-1-carboxylate (1.0 g, 5.0 mmol). The mixture was heated to 125° C. for 60 hours. After cooling, the mixture was diluted with ethyl acetate (200 mL) and washed with water (6×100 mL). The organic phase was dried and concentrated. The residue was purified by silica gel chromatography, eluting with ethyl acetate to give (S)-tert-butyl 4-((5R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.775 g, 60%). 1H NMR (CDCl3, 400 MHz) δ 8.60-8.59 (d, 1H), 6.07-5.89 (m, 1H), 4.73-4.60 (m, 1H), 4.30-3.80 (m, 3H), 3.60-3.35 (m, 1H), 3.22 (m, 1H), 3.02 (br, 1H), 2.78 (m, 1H), 2.35-1.60 (m, 5H), 1.49 (s, 9H), 1.32-1.20 (m, 6H). MS (APCI+) [M+H] +391. The resulting mixture of diastereomers was purified by chiral separation by HPLC (Chiralcel ODH column, 250×20 mm, 15 mL/min, Hexane/EtOH 50:50). The first peak (RT=3.864 min) gave (S)-tert-butyl 4-((5R,7R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.281 g, 36%) and the second peak (RT=5.064 min) gave (S)-tert-butyl 4-((5R,7S)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate (0.389 g, 50%).

reactant | (5R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate | 3.3 mmol, 0.75 g | C(C)(=O)OC1C[C@H](C2=C1N=CN=C2Cl)C | C10H11ClN2O2
reactant | (S)-tert-butyl 3-methylpiperazine-1-carboxylate | 5.0 mmol, 1.0 g | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl 4-((5R)-7-acetoxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-3-methylpiperazine-1-carboxylate | 0.775 g, 60% | C(C)(=O)OC1C[C@H](C2=C1N=CN=C2N2[C@H](CN(CC2)C(=O)OC(C)(C)C)C)C | C20H30N4O4
